Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2][O:3][C@@:4]1([H:5])[C:6][C:7]([H:8])([H:9])[C:10]1([H:11])[H:12]>>[H:1][C:2][O:3]/[C:4]([H:5])=[C:6]/[C:7]([H:8])([H:9])[C:10]([H:11])[H:12],0.3655858281499999
[H:12].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])/[C:10]([H:11])=[C:13]/[C:14]([H:15])([H:16])[H:17]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13][C:14]([H:15])([H:16])[H:17],-1.72998871616
[H:1][O:2][C:3]([C:4]([H:5])[H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:7]([H:8])([H:9])[H:10].[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:11]([H:12])([H:13])[H:14],0.9687254077
[C:9]([H:10])#[C:11][C:12]([H:13])([H:14])[H:15].[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])[H:8]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])/[C:9]([H:10])=[C:11]/[C:12]([H:13])([H:14])[H:15],-1.47759706266
[C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[O:15][H:16].[H:1][O:2]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[O:15][H:16],-5.40615813575
[C:7]([H:8])([H:9])[H:13].[H:1][C:2]([H:3])=[C:4]=[C:5]([H:6])[C:10]([H:11])[H:12]>>[H:1][C:2]([H:3])=[C:4]=[C:5]([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-3.46275193281
[C:1]=[C:2]1[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]1[H:11]>>[C:1]=[C:2]([C:3]([H:4])=[C:5]([H:6])[H:7])[C:10](=[C:8][H:9])[H:11],2.14926649235
[H:1][C:2]#[C:3][C:4]([H:5])/[C:6]([H:7])=[C:8](\[H:9])[O:10][H:11]>>[C:2]#[C:3][C:4]([H:5])/[C:6]([H:7])=[C:8](\[H:9])[O:10][H:11].[H:1],4.54087784312
[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])[C:8]([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17].[H:9]>>[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])[C:8]([H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17],-4.3156578885000005
[H:1][C:2]#[C:3][C@:4]([H:5])([C:6]([H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]#[C:3][C@@:4]([H:5])([C:6][C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:7],4.91446815747
[C:1]#[C:2][C:3]([H:4])([C:5]#[C:6])[O:7][H:8]>>[C:1]#[C:2][C:3]([H:4])[C:5]#[C:6].[O:7][H:8],3.1953933786900004
[C:4]([H:5])([H:6])[C:7]([H:8])=[C:9]([H:10])[H:11].[H:1][C:2](=[O:3])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]([O:3][C:4]([H:5])([H:6])[C:7]([H:8])=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-0.612554359728
[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][O:2]/[C:3]([C:4]([H:5])[H:6])=[C:7](/[H:8])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:9],4.58511064201
[C:1]=[C:2]([C:3]([H:4])=[O:5])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[H:6]>>[C:1]=[C:2]([C:3]([H:4])[O:5][H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-1.81963827898
[H:1][O:2][C@@:3]([H:4])([C:5]=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:1][O:2][C:3]([H:4])=[C:5]=[C:6]([H:7])[H:8],1.30291508163
[H:4].[O:1][O:2]/[C:3](=[C:5]\[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[O:1][O:2][C@@:3]([H:4])([C:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-1.80492699262
[H:1][C:2][O:3][C@:4]([H:5])([C:6][O:7][H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1][C:2].[O:3][C@@:4]([H:5])([C:6][O:7][H:8])[C:9]([H:10])([H:11])[H:12],5.97445391877
[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18]>>[H:1]/[C:2]([C:3]([H:4])([H:5])[H:6])=[C:7](/[H:8])[C:10]([C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18].[H:9],1.11853551841
[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([C:8]([H:9])[H:10])=[C:11]([H:12])[H:13]>>[C:3][C:4]([H:5])([H:6])[C:7]([C:8]([H:9])[H:10])=[C:11]([H:12])[H:13].[H:1][O:2],6.4060759948
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[O:7][C:8][C:10]([H:11])([H:12])[H:13].[H:9]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])[C:10]([H:11])([H:12])[H:13],-3.67738155827
[C:1]=[C:2]([H:3])[O:4][C:5]([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[C:1]#[C:2][O:4][C:5]([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[H:3],2.8092544058599995
[C:2](#[C:3][H:4])[C@:5]([H:6])([O:7][H:8])[C:9]([H:10])([H:11])[H:12].[O:1]>>[O:1]=[C:2]([C:3][H:4])[C@@:5]([H:6])([O:7][H:8])[C:9]([H:10])([H:11])[H:12],-2.98721520046
[C:1]/[C:2]([H:3])=[C:4](\[O:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:1]#[C:2][H:3].[C:4]([O:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],3.20020013718
[C:1]#[C:2].[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]=[O:9]>>[C:1]#[C:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]=[O:9],-8.02441673535
[C:8]([H:9])[H:10].[O:1]=[C:2]([H:3])[O:4][C:5]#[C:6][H:7]>>[O:1]=[C:2]([H:3])[O:4]/[C:5]=[C:6](\[H:7])[C:8]([H:9])[H:10],-3.05631019781
[C:1][C:2]#[C:3][C:4](=[O:5])[C:6]([H:7])([H:8])[H:9]>>[C:1].[C:2]#[C:3][C:4](=[O:5])[C:6]([H:7])([H:8])[H:9],6.46953551819
[C:7]([H:8])[O:9][C:10]([H:11])([H:12])[H:13].[H:1][O:2][C:3]=[C:4]([H:5])[H:6]>>[H:1][O:2]/[C:3]([C:4]([H:5])[H:6])=[C:7](/[H:8])[O:9][C:10]([H:11])([H:12])[H:13],-4.40464327682
